US08053440B2
To a round-bottomed flask were added 2-amino-4,6-dimethoxy-benzamide (0.161 g, 0.82 mmol), 3-(4-formyl-phenyl)-propionic acid ethyl ester (0.170 g, 0.82 mmol), sodium bisulfite (0.160 g, 0.902 mmol), p-toluenesulfonic acid (0.016 g, 0.082 mmol) and N,N-dimethylacetamide (10 mL). The reaction mixture was refluxed at 155° C. for 16 h before being cooled to room temperature. Water was added and the precipitated solid was filtered off and washed with water and methanol to obtain 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester (0.304 g, 97%). The compound 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester (0.304 g, 0.795 mmol) was taken up in a 1:1 mixture of THF and methanol (6 mL). A solution of potassium hydroxide (0.089 g, 1.59 mmol) in water (6 mL) was added to the reaction mixture and stirred at room temperature for 16 h. The solvent was removed and the reaction mixture was acidified with 1 N hydrochloric acid. The precipitated solid was filtered off and washed with water and methanol. The solid was further washed with methanol to obtain 3-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)propanoic acid (0.143 g, 51%). Selected data: MS (ES) m/z: 355.0; MP 250.6-251.1° C.

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.82 mmol, 0.161 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3-(4-formyl-phenyl)-propionic acid ethyl ester | 0.82 mmol, 0.170 g | C(C)OC(CCC1=CC=C(C=C1)C=O)=O | C12H14O3
reactant | sodium bisulfite | 0.902 mmol, 0.160 g | S([O-])(O)=O.[Na+]
reactant | p-toluenesulfonic acid | 0.082 mmol, 0.016 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester | 0.304 g, 97% | C(C)OC(CCC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)=O | C21H22N2O5
